US07344702B2
Synthesis of 2-hydroxyethyl-4-(4-tert-butyldimethylsilyloxybutyl) benzene
4-(4-tert-butyldimethylsilyloxybutyl)phenylacetic acid (0.25 g, 0.775 mmol) dissolved in dry ether is added dropwise to a suspension of lithium aluminum hydride in ether (44.2 mg, 1.16 mmol). The reaction mixture is stirred for 5 hours after which water (45 μl), NaOH (15% solution, 45 μl) and water (135 μl) are successively added and the reaction mixture is stirred for a further 30 minutes. The resulting precipitate is filtered and washed with ether. The ether filtrate is then washed with water and dried. After concentrating the ether, the product obtained is purified by flash chromatography (silica gel; ethyl acetate/hexanes)

reactant | 4-(4-tert-butyldimethylsilyloxybutyl)phenylacetic acid | 0.775 mmol, 0.25 g | [Si](C)(C)(C(C)(C)C)OCCCCC1=CC=C(C=C1)CC(=O)O | C18H30O3Si
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 45 μl | O | H2O
reactant | NaOH | 45 μl | [OH-].[Na+]
reactant | water | 135 μl | O | H2O
solvent | ether | CCOCC | C4H10O
solvent | ether | 1.16 mmol, 44.2 mg | CCOCC | C4H10O
product | 2-hydroxyethyl-4-(4-tert-butyldimethylsilyloxybutyl) benzene | OCCC1=CC=C(C=C1)CCCCO[Si](C)(C)C(C)(C)C | C18H32O2Si
